US08980887B2
N-ethyl-N-(4-pyridinylmethyl)-2-(3,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetamide.hydrochloride (Compound 10)
According to the method of Example 14, 2-(3,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetic acid and N-(4-pyridinylmethyl)ethylamine were used as raw materials for synthesis, to obtain white solid powder, yield 72.1%. m.p. 250-252° C., ESI-MS m/z: 454[M+H]+, 1H NMR(DMSO-d6, 400 MHz)δ: 1.09(t, 0.7H, J=7.00 Hz), 1.25(t, 2.3H, J=7.00 Hz), 2.57(s, 2.3H), 2.58(s, 0.7H), 3.38(q, 0.5H, J=7.00 Hz), 3.62(q, 1.5H, J=7.00 Hz), 4.32(s, 0.5H), 4.62(s, 1.5H), 4.79(s, 1.5H), 5.02(s, 0.5H), 7.41-7.43(m, 1H), 7.63-7.66(dd, 1H, J=8.40 Hz, 2.24 Hz), 7.79(s, 1H), 7.84-7.87(m, 2H), 7.89-7.90(d, 1H, J=2.24 Hz), 7.96-7.98(d, 1H, J=8.40 Hz), 8.69-8.77(m, 1H), 8.80-8.84(m, 2H).

reactant | 2-(3,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetic acid | ClC=1C=C(C=CC1Cl)C=1N=C2N(C=CC(=C2)C)C1CC(=O)O | C16H12Cl2N2O2
reactant | N-(4-pyridinylmethyl)ethylamine | N1=CC=C(C=C1)CNCC | C8H12N2
product | N-ethyl-N-(4-pyridinylmethyl)-2-(3,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetamide.hydrochloride | yield 72.1% | Cl.C(C)N(C(CC1=C(N=C2N1C=CC(=C2)C)C2=CC(=C(C=C2)Cl)Cl)=O)CC2=CC=NC=C2 | InChI=1S/C24H22Cl2N4O.ClH/c1-3-29(15-17-6-9-27-10-7-17)23(31)14-21-24(18-4-5-19(25)20(26)13-18)28-22-12-16(2)8-11-30(21)22;/h4-13H,3,14-15H2,1-2H3;1H
